US04337250
8-Fluoro-5-(4-fluorophenyl)-2-(5-cyano-1-pentyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
8-fluoro-5-(4-fluorophenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (10.8 g, 0.034 mole), 6-bromohexanenitrile (6.5 g, 0.037 mole), anhydrous sodium carbonate (21.6 g, 0.204 mole), potassium iodide (100 mg) and 3-methyl-2-butanone (250 ml) were combined and the mixture refluxed for 24 hours. The reaction mixture was cooled, diluted with 250 ml of water and stirred to dissolve excess sodium carbonate. The layers were separated and the aqueous layer extracted with 200 ml of methylene chloride. The organic layers were combined, dried over anhydrous magnesium sulfate, filtered and evaporated to an oil. Addition of hexane gave the title product in crystalline form [11.3 g, m.p. 90°-98° C., Rf 0.5 (9:1 ethyl acetate:methanol)].

reactant | 8-fluoro-5-(4-fluorophenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.034 mole, 10.8 g | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CCNC3 | C17H14F2N2
reactant | 6-bromohexanenitrile | 0.037 mole, 6.5 g | BrCCCCCC#N | C6H10BrN
reactant | sodium carbonate | 0.204 mole, 21.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 100 mg | [I-].[K+]
reactant | 3-methyl-2-butanone | 250 ml | CC(C(C)=O)C | C5H10O
solvent | water | 250 ml | O | H2O
product | 8-Fluoro-5-(4-fluorophenyl)-2-(5-cyano-1-pentyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CCN(C3)CCCCCC#N | C23H23F2N3
